Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamides) / Sulfasalazine
 
Attending: ___.
 
Chief Complaint:
The patient re-admitted on the same day he was discharged for 
abdominal pain, nausea, and vomiting.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ulcerative colitis discharged on ___ following j 
ileoanal pouch creation and  loop ileostomy, now presents with 
nausea, vomiting and abdominal pain since discharge home.  He 
does not report any fevers, hematemesis, or decreased ostomy 
output.
 
Past Medical History:
Ulcerative Colitis
 
Social History:
___
Family History:
Many family members with UC, Father had polyps and mother had 
breast CA
 
Physical Exam:
On admission
T 99.0 HR 79  BP 126/78  RR 16  94% RA
Gen - thin, young male, alert and oriented
___- RRR
Pulm - CTA b/l
Abd - S / minimally distended / min pain to deep palpation over
epigastrium
.
At Discharge:
Vitals: T 97.2 HR 85 BP 108/70 RR 16 99% on RA
GEN: NAD, A/Ox3
RESP: CTAB
CV: RRR
ABD: +BS, soft, NT/ND
Ostomy with semi-soft brown stool, and gas production, stoma 
pink & viable.
Extrem: no c/c/e

 
Pertinent Results:
___ 05:08AM BLOOD WBC-9.4 RBC-4.47* Hgb-13.2* Hct-38.2* 
MCV-85 MCH-29.4 MCHC-34.5 RDW-11.4 Plt ___
___ 07:15AM BLOOD WBC-12.0* RBC-4.51* Hgb-13.6* Hct-39.4* 
MCV-87 MCH-30.1 MCHC-34.4 RDW-11.6 Plt ___
___ 05:51AM BLOOD Glucose-101 UreaN-17 Creat-0.7 Na-139 
K-4.2 Cl-106 HCO3-23 AnGap-14
___ 07:41AM BLOOD Glucose-105 UreaN-20 Creat-1.0 Na-135 
K-4.0 Cl-98 HCO3-30 AnGap-11
___ 07:15AM BLOOD Lipase-184*
___ 05:51AM BLOOD Calcium-8.9 Phos-3.4 Mg-1.9
___ 05:08AM BLOOD Albumin-4.1 Calcium-9.3 Phos-3.9 Mg-2.4 
Iron-44*
___ 07:41AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.4
___ 05:08AM BLOOD calTIBC-272 Ferritn-123 TRF-209
___ 03:15PM BLOOD calTIBC-241* Ferritn-114 TRF-185*
___ 05:08AM BLOOD Triglyc-78
___ 03:15PM BLOOD Triglyc-88
.
___ - IMAGING:CT scan - Prominent static appearing loops of 
bowel in LUQ  
likely reflecting a low-grade ileus, no evidence for obstruction 
 

___ - Small bowel follow through
IMPRESSION: Normal although limited views of the esophagus and 
stomach and duodenum; however, markedly dilated loops of jejunum 
are noted. The ileum may be collapse or fluid-filled. Findings 
are consistent with a partial or complete small bowel 
obstruction
 
Brief Hospital Course:
The patient was admitted ___.  He was started on IVF, remained 
NPO, started on reglan and given IV pain medications as needed.

___: Small bowel follow through demonstrated partial 
obstruction, remained NPO, cont IVF

___: PICC line placed, TPN started

___: cont TPN, sips for comfort

___: CT scan w/PO and IV contrast demonstrating prominent 
static appearing loops of bowel in the left upper quadrant 
likely reflecting a low-grade ileus, no evidence for an 
obstruction at this time.  Continued on TPN, sips, IVF.

___: diet advanced to clears, continued TPN, IVF

___: diet advanced to full liquids, TPN and IVF discontinued

___: Tolerated FULL liquids with crackers. No N/V. Discharged 
home with FULL liquids, toast and crackers. He will advance diet 
slowly at home. Instruction provided. He will continue with 
loperamide for management of loose ostomy output.

 
Medications on Admission:
prednisone 40', protonix 40', ativan prn, MVI, calcium/vitamin 
D, hydrocortisone enema nightly, loperamid 2mg PO QID, zolpidem
5mg PO qhs, oxycodone 5 mg PO q4hrs prn, Psyllium 1.7 g Wafer PO
DAILY, Reglan 10 mg PO QID 

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever or pain: Do not exceed 4000mg in 24 
hours.  
2. Loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day) as needed for increased ostomy output: Do not exceed 16mg 
in 24 hours. ___ MD.  
3. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
4. Pepcid 20 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for indigestion.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Ileus
.
Secondary:
remicaide, ulcerative colitis, s/p Ileoanal pouch/loop ileostomy 
 

 
Discharge Condition:
Stable
Tolerating a FULL liquid diet with toast and crackers
Adequate pain control with oral medication

 
Discharge Instructions:
Please ___ your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, diarrhea 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your skin, or the whites of your eyes become yellow.
* Your pain is not improving within ___ hours or becoming 
progressively worse, or inadequately controlled with the 
prescribed pain medication.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

Incision Care:
*You may shower. Pat incision dry. 
*Avoid swimming and baths until further instruction at your 
followup appointment.
*Leave the steri-strips on. They will fall off on their own, or 
be removed during your followup.  
*Please ___ the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

Monitoring Ostomy Output / Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 500mL to 1000mL per day. 
*If Ostomy output exceeds 1 liter, take 4mg of Imodium, repeat 
2mg with each episode of loose stool. Do not exceed 16mg in 24 
hours.

 
Followup Instructions:
___